US05212320
Zinc iodide (0.21 g) was added to a mixture of 4-isobutylbenzaldehyde (6.5 g) and trimethylsilylcyanide (5.0 g). The mixture was stirred at room temperature for 3 minutes and partitioned between ethyl acetate and 7% hydrochloric acid. The organic layer was washed with 7% hydrochloric acid and water and dried over magnesium sulfate. The solvent was removed in vacuo to give 2-hydroxy-2-(4-isobutylphenyl)acetonitrile as a yellow oil (8.15 g).

reactant | 4-isobutylbenzaldehyde | 6.5 g | C(C(C)C)C1=CC=C(C=O)C=C1 | C11H14O
reactant | trimethylsilylcyanide | 5.0 g | C[Si](C)(C)C#N | C4H9NSi
catalyst | Zinc iodide | 0.21 g | [I-].[Zn+2].[I-]
product | 2-hydroxy-2-(4-isobutylphenyl)acetonitrile | 8.15 g | OC(C#N)C1=CC=C(C=C1)CC(C)C | C12H15NO
